US04612156
biphenol:
The slurry was then fed to the Werner & Pfleiderer extruder which consisted of epoxy resin and bisphenol A by means of a Moyno pump. The slurry entered the Werner & Pfleiderer extruder at the feed throat section. The catalyst used was a 70% solution in methanol of ethyltriphenylphosphonium acetate.acetic acid complex. This catalyst solution was pumped to the Werner & Pfleiderer extruder by means of a Whitey diaphragm pump. The catalyst stream also entered the extruder at the feed throat. The catalyst solution feed rate was 28 grams per hour (0.0077 g/s) while the slurry feed rate was 9.3 lbs./hour (1.17 g/s). The conditions on the Werner & Pfleiderer extruder were: ambient temperature at the feed throat, 175° C. on the first four heat zones, and 215° C. on zone 5 and the die. The screw rpm was 100. The weight average molecular weight was 58,163 and a polydispersity of 3.56.

reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | ethyltriphenylphosphonium acetate | C(C)(=O)[O-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | CO | CH4O
product | biphenol | C=1(C(=CC=CC1)C=1C(=CC=CC1)O)O | C12H10O2
